US07919628B2
2-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester (1.07 g) was dissolved in dichloromethane (15 ml). At 0° C. trifluoromethane sulfonic acid anhydride (0.785 ml) was added, followed by slow addition of triethylamine (1.03 ml). The reaction was kept under stirring for 30 min. It was diluted with dichloro-methane (100 ml), which was washed with 5% NaHCO3 (25 ml), 1N hydrochloric acid (25 ml) and brine (25 ml), and then dried over sodium sulphate. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography. 1.00 g of 2-methyl-2-[(1-trifluoromethanesulfonyloxy-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester was obtained as a white solid.

reactant | 2-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid methyl ester | 1.07 g | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)=O | C16H17NO4
reactant | trifluoromethane sulfonic acid anhydride | 0.785 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 1.03 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloro-methane | 100 ml | ClCCl | CH2Cl2
product | 2-methyl-2-[(1-trifluoromethanesulfonyloxy-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester | 1.00 g | COC(C(C)(NC(=O)C1=C(C2=CC=CC=C2C=C1)OS(=O)(=O)C(F)(F)F)C)=O | C17H16F3NO6S
